US08669266B2
(ii) 4-[2-((R)-3-Hydroxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid
To a solution of 996 mg 4-[2-((R)-3-Hydroxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester in 10 ml THF were added 2.8 ml aqueous NaOH (1 M) at 0° C. After 2 h the mixture was brought to pH 4 by using Amberlite IR-120 ion exchange resin. The reaction mixture was filtered and concentrated and the crude product obtained used in the next step without further purification. Yield: 700 mg

reactant | 4-[2-((R)-3-Hydroxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester | 996 mg | COC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1C[C@@H](CC1)O)C | C18H20N2O5
reactant | NaOH | 1 M, 2.8 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[2-((R)-3-Hydroxy-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid | O[C@H]1CN(CC1)C(COC1=CC(=NC2=CC(=CC=C12)C)C(=O)O)=O | C17H18N2O5
